US04547499
2-[3-[4-(2,3-Dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl]-2,4-dihydro-1H-[1,2,4]triazolo-[3,4-c][1,4]benzoxazin-1-one
A stirred solution of 1.33 g. (0.005 mole) of 2-(3-chloropropyl)2,4-dihydro-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one, from Example 1, hereinabove, 0.83 g. (0.005 mole) of potassium iodide, and 2.39 g. (0.011 mole) of 4-(2-keto-1-benzimidazolinyl)piperadine in 25 ml. of DMF under a nitrogen atmosphere, was warmed to 105° C. for 4.75 hours. The solution was cooled, poured into cold sodium bicarbonate in water solution, and extracted with methylene chloride. The methylene chloride extracts were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The resulting residue was chromatographed on 175 g. of silica gel and eluted with a 2% diethylamine/15% methanol/ethyl acetate, v/v/ mixture. The eluted product thus obtained was crystallized in the manner described in example 1, hereinabove, from a methylene chloride/methanol mixture to give in two crops 1.76 g., m.p. 176°-178° C. and 0.058 g., m.p. 175.5°-178° C. of the titled compound. The analytical sample had a melting point of 176.5°-177.5° C.

reactant | 2-(3-chloropropyl)2,4-dihydro-1H-[1,2,4]triazolo[3,4-c][1,4]benzoxazin-1-one | 0.005 mole | ClCCCN1N=C2COC3=C(N2C1=O)C=CC=C3 | C12H12ClN3O2
reactant | potassium iodide | 0.005 mole | [I-].[K+]
reactant | 4-(2-keto-1-benzimidazolinyl)piperadine | 0.011 mole | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[3-[4-(2,3-Dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl]-2,4-dihydro-1H-[1,2,4]triazolo-[3,4-c][1,4]benzoxazin-1-one | O=C1NC2=C(N1C1CCN(CC1)CCCN1N=C3COC4=C(N3C1=O)C=CC=C4)C=CC=C2 | C24H26N6O3
